US06927228B2
(b) Ethyl 3-{3′-[(benzoylmethylamino)-methyl]biphenyl-4-yl}-2-methylpropionate
2.2 g (5.3 mmol) of ethyl (E)-2-methyl-3-(3′-{[(1-phenylmethanoyl)amino]methyl}biphenyl-4-yl)acrylate and 100 ml of ethyl acetate are introduced into a three-necked flask. The reaction medium is degassed, 450 mg of palladium-on-charcoal (10%) are added and the mixture is hydrogenated under atmospheric pressure for two hours. The reaction medium is filtered and evaporated, and the residue obtained is purified by chromatography on a column of silica eluded with a mixture of heptane and ethyl acetate (80/20). After evaporation of the solvents, 1.45 g (64%) of ethyl 3-{3′-[(benzoylmethylamino)methyl]biphenyl-4-yl}-2-methylpropionate are collected in the form of an oil.

reactant | ethyl (E)-2-methyl-3-(3′-{[(1-phenylmethanoyl)amino]methyl}biphenyl-4-yl)acrylate | 5.3 mmol, 2.2 g | C/C(/C(=O)OCC)=C\C1=CC=C(C=C1)C1=CC(=CC=C1)CNC(=O)C1=CC=CC=C1 | C26H25NO3
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | Ethyl 3-{3′-[(benzoylmethylamino)-methyl]biphenyl-4-yl}-2-methylpropionate | C(C1=CC=CC=C1)(=O)CNCC=1C=C(C=CC1)C1=CC=C(C=C1)CC(C(=O)OCC)C | C27H29NO3
